US06951875B2
b) trans-6-Methyl-4-styryl-pyridine-2-carbonitrile
Following, the general method described in example 2b, 2-methyl-4-styryl-pyridine 1-oxide was reacted first with dimethylsulfate and then with NaCN. After extraction and chromatography (SiO2 with CH2Cl2) the title compound was obtained as a yellow crystalline material. MS: m/e=220 (M+).

reactant | 2-methyl-4-styryl-pyridine 1-oxide | CC1=[N+](C=CC(=C1)C=CC1=CC=CC=C1)[O-] | C14H13NO
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
reactant | NaCN | [C-]#N.[Na+]
product | trans-6-Methyl-4-styryl-pyridine-2-carbonitrile | CC1=CC(=CC(=N1)C#N)\C=C\C1=CC=CC=C1 | C15H12N2
